Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain, fevers
 
Major Surgical or Invasive Procedure:
Radiographically-guided exchange of percutaneous biliary drain 
tubing, disimpaction of percutaneous biliary drain by 
interventional radiology, ERCP, hepatic capsular artery 
embolization
 
History of Present Illness:
Mr. ___ is a ___ y/o gentleman with a pmhx. significant
for cholangiocarcinoma, stage ___, s/p 7.5 cycles of cis/gem,
finished in ___, with 2 stents in hepatic duct
(internal/external drain), percutaneous cholecystectomy tube,
sphincterotomy, with multiple episodes of biliary sepsis, who
presents with abdominal pain and elevated lipase.

Patient states that he was in his normal state of health until
day prior to admission when he developed sudden, excruciating
abdominal pain, ___, after dinner and vomited 10 times.  He 
was
having normal bowel movements and passing gas.  Mr. ___ then
presented to the ED for further evaluation.

In the ED, initial vitals were: 99.9 84 171/85 16 99%.  Labs 
were
significant for: ALT: 124 AP: 351 Tbili: 2.4 Alb: 4.4, AST: 182,
LDH: 261, Lip: 2445.  CT scan revealed: "Stable position and
caliber of two parallel metallic CBD stents terminating in the
right and left hepatic ducts with similar appearance of moderate
left and minimal right intrahepatic bile duct dilatation.
However, there is no significant pneumobilia, which is a change
since ___, suggesting stent occlusion. Stable
position of left internal-external biliary drain.  Limited
evaluation of known Klatskin tumor on single phase CT, but no
appreciable change.  Stable cholecystostomy tube coiled within a
collapsed gallbladder.  Splenomegaly."  ___ was consulted who
attempted "clean out" of biliary stent, placement of plastic
stent within internal portion and then exchange of external
stent.  According to ___ service, bile should now be "free
flowing."  GI/pancreatitis team was consulted as well who could
not definitively explain elevated lipase in setting of prior
sphincterotomy.  They have a low threshold for taking patient to
ERCP tomorrow. 

Mr. ___ was started on empiric ___ in the ED given
history of previous MDR biliary infection (see below).  He 
states
he had a stool guaiac that was initially negative (per his
report), but then subsequently had a bowel movement with BRBPR. 
On the floor, Mr. ___ states that his pain is now a ___.  He
is still slightly nauseated, but generally feels much better 
than
when he first presented.

ROS:  Denies chest pain, shortness of breath, headache, rash,
back pain, dysuria, or other concerning signs or symptoms.  A
complete 12-point review of systems is negative aside from what
is described above.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated this ductal dilation and a mass at the bifurcation of 
the right anterior and left intrahepatic ducts worrisome for 
type IV ___ cholangiocarcinoma.  Cytology was
suspicious for carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
- ___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
C. diff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis
- ___ completed CK radiation and resume C5D1 Gem/Cis
- C8D1 gem/cis most recently D1 ___ Cycle end: ___
- numerous readmissions for C.diff and biliary sepsis in ___,
___, and ___ as detailed under HPI above

PAST MEDICAL HISTORY:
GERD
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
C.diff x3
 
Social History:
___
Family History:
His grandfather had a cancer of the bone. He has no other family 
history of malignancy
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.8, 135/75, 82, 18, 98% RA
GENERAL:  Tired appearing, slightly uncomfortable, NAD
HEENT:  Mucous membranes dry
CHEST:  CTA bilaterally, no wheezes, rales, or rhonchi
CARDIAC:  RRR, no MRG
ABDOMEN: +BS, distended, non-tender, two drains exiting right
side of abdomen, perc chole drain with dark green bile, hepatic
drain without anything in bag
EXTREMITIES:  No edema bilaterally, muscles are atrophic
SKIN:  Warm and dry, rosacea on face

DISCHARGE PHYSICAL EXAM:

 
Pertinent Results:
ADMISSION LABS:

___ 03:30AM BLOOD WBC-11.8*# RBC-4.67 Hgb-13.3* Hct-39.4* 
MCV-84 MCH-28.5 MCHC-33.8 RDW-15.4 Plt ___
___ 10:15PM BLOOD Neuts-79.5* Lymphs-13.5* Monos-5.8 
Eos-1.0 Baso-0.2
___ 03:30AM BLOOD Neuts-90.3* Lymphs-4.2* Monos-4.9 Eos-0.2 
Baso-0.4
___ 03:30AM BLOOD ___ PTT-28.2 ___
___ 10:15PM BLOOD Glucose-141* UreaN-13 Creat-0.8 Na-139 
K-3.5 Cl-105 HCO3-26 AnGap-12
___ 03:30AM BLOOD Glucose-235* UreaN-16 Creat-0.9 Na-137 
K-3.6 Cl-99 HCO3-24 AnGap-18
___ 10:15PM BLOOD ALT-87* AST-89* LD(___)-120 AlkPhos-296* 
TotBili-2.5*
___ 03:30AM BLOOD ALT-124* AST-182* LD(LDH)-261* 
AlkPhos-351* TotBili-2.4*
___ 10:15PM BLOOD Lipase-906*
___ 03:30AM BLOOD Lipase-2445*
___ 10:15PM BLOOD Calcium-8.8 Phos-2.4* Mg-1.9
___ 03:30AM BLOOD Albumin-4.4
___ 10:15PM BLOOD Lactate-1.4
___ 03:40AM BLOOD Lactate-3.1*

DISCHARGE LABS:
___ 06:29AM BLOOD WBC-2.8* RBC-3.30* Hgb-9.6* Hct-28.0* 
MCV-85 MCH-29.2 MCHC-34.4 RDW-14.9 Plt Ct-93*
___ 06:29AM BLOOD Plt Ct-93*
___ 06:29AM BLOOD Glucose-126* UreaN-4* Creat-0.6 Na-140 
K-4.1 Cl-103 HCO3-27 AnGap-14
___ 06:29AM BLOOD ALT-31 AST-35 AlkPhos-233* TotBili-0.6
___ 06:29AM BLOOD Calcium-8.9 Phos-3.1 Mg-2.0

PERTINENT STUDIES:
# BILIARY CATHETER REPLACEMENT ___:
IMPRESSION:   
1. Successful exchange of an occluded right internal external 
biliary drain and clearing of an occluded left biliary stent. 
2. No frank biliary bleeding throughout the procedure. Given the 
history of pre-procedure bleeding in the internal external drain 
and bright red blood per rectum, the patient had been consented 
for possible angiography. At the conclusioin of the procedure, 
the decision was made to admit the patient for serial hematocrit 
monitoring and observation. 

# ERCP REPORT ___:
Impression: The scout film revealed previous bilateral metal 
stents as well as an internal-external biliary drain in place. 
The bile duct was deeply cannulated with the balloon. 
Contrast was injected in the right metal stent and there was 
flow through the ducts extended to the right hepatic biliary 
tree. 
There were filling defects within the metal stent suggestive of 
sludge. 
The biliary tree was swept with a balloon at the proximal end of 
the metal stent in the right biliary system. 
Sludge and blood was removed. 
Overall, successful ERCP with evidence of hemobilia.
 
Recommendations: Return to ward under ongoing care. 
Patient to be seen by interventional radiology for further 
management of hemobilia. Follow for response and complications. 
If any abdominal pain, fever, jaundice, gastrointestinal 
bleeding please call ERCP fellow on call ___ 
Follow-up with Dr. ___ as previously scheduled.
 
# PORTAL VENOGRAM ___ IMPRESSION: 
  
1. Right liver arterial supply via hepatic capsular collateral 
branches. No active extravasation is visualized. However, an 
ectatic branch from the gastroepiploic artery circles around the 
indwelling biliary drain. This artery was targeted for 
embolization but could not be selectively catheterized. 
2. Normal transhepatic portal venogram. 

# HEPATIC ARTERIOGRAM ___ IMPRESSION:
FINDINGS:  
1.  Common hepatic arteriogram demonstrating patent severely 
attenuated proper hepatic artery and GDA. 
2. GDA  and gastroepiploic arteriogram demonstrating capsular 
hepatic arterial branch arising from the gastroepiploic artery 
and supplying an abnormal tangle of vessels around the biliary 
drain. 
3. Post embolization common hepatic arteriogram demonstrating 
preserved 
antegrade flow in the proper hepatic artery and the GDA. No 
further filling of the embolized artery. 
4. Superior mesenteric arteriogram demonstrating no contributing 
artery to the abnormal tangle of vessels around the biliary 
drain. The right colonic branch was see on yesterday's 
arteriogram was no longer seen. 
5. Right common femoral arteriogram demonstrating suitable 
anatomy for 
Angio-Seal deployment. 
  
IMPRESSION:  
  
Successful embolization of a capsular hepatic arterial branch 
arising from the gastroepiploic artery and a supplying the 
abnormal vessels around the biliary drain that likely 
contributed to hemobilia. 

PERTINENT IMAGING:

CT CHEST w/o CONTRAST:
FINDINGS:  
  
The examination is compared to ___. 
No incidental thyroid findings. No supraclavicular, 
infraclavicular or 
axillary lymphadenopathy. Borderline sized and partly calcified 
mediastinal lymph nodes (3, 20).  No abnormalities at the level 
of the large thoracic vessels. No pericardial effusion. The 
posterior mediastinum is unremarkable. Unchanged upper abdominal 
drain. Moderate degenerative vertebral disease. No osteolytic 
lesions at the level of the ribs, the sternum or the vertebral 
bodies. Mild bilateral apical thickening.  The assessment of the 
lung parenchyma is limited by respiratory motion artifact 's.  
Unchanged large calcified 
subpleural right upper lobe granuloma (5, 96).  Non 
characteristic scarring in the right upper lobe. New moderate 
Bilateral pleural effusions.  Subsequent areas of atelectasis at 
both the left and the right lung bases.  Minimal lower lobe 
predominant mucous plugging. Otherwise the airways are patent.no 
evidence of pneumonia or other diffuse lung disease. No 
pulmonary nodules suspicious for metastatic or malignant 
changes. 
  
IMPRESSION:  
  
New bilateral pleural effusions, moderate in extent. Subsequent 
areas of 
atelectasis at both the left and the right lung bases.  No 
pneumonia, no 
malignant or metastatic lung disease.  No adenopathy. 

 
Brief Hospital Course:
Mr. ___ is a ___ y/o gentleman with a pmhx. significant for 
cholangiocarcinoma, stage ___, s/p 7.5 cycles of cis/gem, 
finished in ___, with 2 stents in hepatic 
duct(internal/external drain), percutaneous cholecystectomy 
tube, sphincterotomy, with multiple episodes of biliary sepsis, 
who presents with abdominal pain and elevated lipase.

# Hemobilia: patient presented with gross blood visualized in 
the PTBD drain at home during his episodes of vomiting and 
abdominal pain. Patient was found to have transaminitis on 
admission secondary to the obstruction. On arrival to the ED, 
interventional radiology was consulted and a larger diameter, 
___ PTBD tube was exchanged for his hepatic drain, ___ also 
cleaned the prior stents which allowed for drainage of bile from 
the PTBD. His LFTs began trending down after decompression. 
Patient tolerated the procedure well and had marked improvement 
of his abdominal pain after the procedure. After admission to 
the ward for observation, patient began having BRBPR which 
prompted a GI consult. GI recommended an ERCP to evaluate for 
hemobilia which was positive for bleeding coming from the right 
hepatic duct stent. Patient was transferred to the SICU with the 
Transplant Surgery service following as well as interventional 
radiology. He was taken for a portal venogram which showed an 
ectatic branch from the gastroepiploic artery circles around the 
indwelling biliary drain. This artery was targeted for 
embolization but could not be selectively catheterized. Patient 
subsequently underwent hepatic arteriogram which showed 
successful embolization of a capsular hepatic arterial branch 
arising from the gastroepiploic artery and a supplying the 
abnormal vessels around the biliary drain that likely 
contributed to hemobilia. Patient was transferred back onto the 
oncology service and had resolution of his BRBPR and 
hematochezia.

# Biliary drain obstruction: pt presented with tranaminitis, 
nausea, vomiting, abdominal pain. ___ was consulted in the ED and 
performed decompression and cleaning of his hepatic drain. 
Patient had adequate output from his drain post procedure. His 
abdominal pain quickly resolved and his LFTs steadily trended 
down back to baseline. His drain was eventually capped prior to 
discharge. Patient was discharged with follow up with 
interventional radiology on ___ for maintenance of his 
biliary and cholecystostomy drains.

# Fever: Patient had remained afebrile on admission up until ___ 
when he had a low grade fever of 100.6 F while in the SICU. He 
was initially placed on empiric vancomycin and meropenem while 
in the ED on ___ due to concern for cholangitis and his history 
of MDR E. coli and VRE. His biliary culture grew mixed flora but 
his blood cultures had remained negative throughout admission. 
He was transitioned from vancomycin to linezolid while in the 
SICU to treat his fever. Infectious disease was consulted after 
transfer back to the floor on ___ who recommended switching back 
to vancomycin and meropenem and to start PO vancomycin 
prophylaxis for C. diff. Patient was treated on the vancomycin 
from ___ to ___ and meropenem from ___ to ___. He remained 
afebrile after returning to the floor. ID recommended DCing his 
IV antibiotics at time of discharge due to negative blood 
cultures but continuing the PO vancomycin for C. diff 
prophylaxis until ___. Of note, patient's C. diff assay was 
negative during this admission.

# Thrombocytopenia: Patient with drop in platelets from 130s on 
admission to ___ for the past few days. Likely 
multifactorial: dilutional vs. BM suppression from chronic 
illness vs. antibiotic effect. The SICU was concerned about HIT, 
however HITT score is 2 with low probabilty of the disease. He 
was monitored closely and his thrombocytopenia had resolved 
without medical intervention. Final etiology of his transient 
thrombocytopenia was attributed to a combination of receiving 
antibiotics in addition to his chronic illness.

# Cholangiocarcinoma: pt with stage IV cholangiocarcinoma s/p 
7.5 cycles of gem/cis without radiographic evidence of recurrent 
disease prior to admission. He will follow up with his primary 
oncologist Dr. ___ Dr. ___ on further management of 
his cholangiocarcinoma.

# Transitions in care:
-- Patient has hematology oncology follow up with Dr. ___ on 
___ ___ get called for an earlier appointment
-- PCP follow ___ 
-- Radiology followup scheduled for ___ for maintenance of his 
drains
-- Continue PO vancomycin 125mg Q8H until ___ for ___. ___ ppx
-- Full code
-- Emergency contact: ___ ___ 


 
Medications on Admission:
The Preadmission Medication list ___ be inaccurate and requires 
futher investigation.
1. Ondansetron 8 mg PO Q8H:PRN Nausea 
2. Terazosin 10 mg PO QHS 
3. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
4. Mirtazapine 15 mg PO QHS 
5. Bismuth Subsalicylate 15 mL PO TID 
6. Dronabinol 2.5 mg PO TID:PRN Nausea 
7. Atenolol 50 mg PO DAILY 
8. Psyllium 1 PKT PO TID:PRN Constipation 
9. Pantoprazole 40 mg PO Q24H 
10. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1. Bismuth Subsalicylate 15 mL PO TID 
2. Dronabinol 2.5 mg PO BID nausea 
3. Dronabinol 5 mg PO QHS 
4. Loratadine 10 mg PO DAILY 
5. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
6. Pantoprazole 40 mg PO Q24H 
7. Psyllium 1 PKT PO TID:PRN Constipation 
8. Terazosin 10 mg PO QHS 
9. Vancomycin Oral Liquid ___ mg PO/NG Q8H 
RX *vancomycin 125 mg 1 capsule(s) by mouth EVERY 8 HOURS Disp 
#*15 Capsule Refills:*0
10. Atenolol 50 mg PO DAILY 
11. Mirtazapine 15 mg PO QHS 
12. Ondansetron 8 mg PO Q8H:PRN Nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: obstruction of percutaneous biliary drain, 
hemobilia

Secondary diagnosis: stage 4 cholangiocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Mr. ___, 

You were seen at the ___ due to 
sudden onset abdominal pain and vomiting due to obstruction of 
your hepatic stents and biliary drain. We had the interventional 
radiologists clean out and exchange the tube to your 
percutaneous biliary drain  which relieved the obstruction. We 
also placed you on antibiotics to treat any possible infection 
caused by the initial obstruction.

During your stay, you also had blood in your stool. The 
gastroenterologists recommended doing a study called ERCP to 
visualize your biliary system. The ERCP procedure showed that 
you were bleeding from your right hepatic stent. You were 
transferred to the ICU for close monitoring. The interventional 
radiologists did a procedure to stop the bleeding.

At this time, the bleeding has been controlled and your blood 
cultures have not shown evidence of active infection. We are 
stopping your IV antibiotics, but the infectious disease 
specialists recommended you to continue taking the vancomycin by 
mouth to prevent against C. diff infection, until ___.

At this time you are ready to be discharged, we wish you the 
best in your continued recovery!

Your ___ Team

 
Followup Instructions:
___